US08217042B2
Preparation of N-Ethyl-N′-(3-phenylpyrido[2,3-b]pyrazin-6-yl)oxalamide (reaction according to scheme 5)
23 mg (0.07 mmol) of ethyl N-(3-phenylpyrido[2,3-b]pyrazin-6-yl)oxalamidate were dissolved in 5ml of dry THF and admixed with 0-15 ml (0.38 mmol) of a 2.0 M ethylamine solution in THF.

reactant | ethyl N-(3-phenylpyrido[2,3-b]pyrazin-6-yl)oxalamidate | 0.07 mmol, 23 mg | C1(=CC=CC=C1)C1=CN=C2C(=N1)N=C(C=C2)NC(C(=O)OCC)=O | C17H14N4O3
reactant | ethylamine | 2.0 M | C(C)N | C2H7N
solvent | THF | 5ml | C1CCOC1 | C4H8O
product | N-Ethyl-N′-(3-phenylpyrido[2,3-b]pyrazin-6-yl)oxalamide | C(C)NC(C(=O)NC=1C=CC=2C(=NC(=CN2)C2=CC=CC=C2)N1)=O | C17H15N5O2
